US08859541B2
N-[5-benzyl-6-(2-phenylethynyl)pyridin-2-yl]-2-(methylamino)-propan-amide
A mixture of tert-butyl-N-[1-[[5-benzyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate E2d (26 mg, 0.6 mmol) and DCM:TFA (9:1, 2 ml) is stirred at RT for 90 minutes. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 4 mg (20%). HPLC-MS: M+H=370; tR=2.16 min (*Method—1).

reactant | tert-butyl-N-[1-[[5-benzyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)CC1=CC=CC=C1)C#CC1=CC=CC=C1)C)=O | C29H31N3O3
reactant | DCM TFA | 2 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[5-benzyl-6-(2-phenylethynyl)pyridin-2-yl]-2-(methylamino)-propan-amide | C(C1=CC=CC=C1)C=1C=CC(=NC1C#CC1=CC=CC=C1)NC(C(C)NC)=O | C24H23N3O
